US06117886
Synthesis of 6-(3-chloropropyl)oxy-1-methyl-3-{2-[3-(2-quinolylmethoxy)benzyl]tetrazolyl}quinolin-2-one
To a mixture of 6-hydroxy-1-methyl-3-{2-[3-(2-quinolylmethoxy)benzyl]tetrazolyl}quinolin-2-one (600 mg, 1.22 mmol) and potassium carbonate (337 mg, 2.44 mmol), was added DMF (100 ml), and the resultant mixture was stirred. 1-Bromo-3-chloropropane (578 mg, 3.64 mmol) was then added thereto, followed by stirring at a bath temperature of 60° C. for four hours. The reaction mixture was concentrated under reduced pressure, and water was added thereto, followed by extraction with a mixture of chloroform-methanol (10:1). The residue was dried over sodium sulfate anhydrate, and the solvent was removed under reduced pressure, to thereby obtain the title compound (638 mg) in a crude form as yellow oily matter.

reactant | 6-hydroxy-1-methyl-3-{2-[3-(2-quinolylmethoxy)benzyl]tetrazolyl}quinolin-2-one | 1.22 mmol, 600 mg | OC=1C=C2C=C(C(N(C2=CC1)C)=O)C=1N=NN(N1)CC1=CC(=CC=C1)OCC1=NC2=CC=CC=C2C=C1 | C28H22N6O3
reactant | potassium carbonate | 2.44 mmol, 337 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-Bromo-3-chloropropane | 3.64 mmol, 578 mg | BrCCCCl | C3H6BrCl
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 6-(3-chloropropyl)oxy-1-methyl-3-{2-[3-(2-quinolylmethoxy)benzyl]tetrazolyl}quinolin-2-one | 638 mg | ClCCCOC=1C=C2C=C(C(N(C2=CC1)C)=O)C=1N=NN(N1)CC1=CC(=CC=C1)OCC1=NC2=CC=CC=C2C=C1 | C31H27ClN6O3
